2114-05-19 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-19**] 12:00 AM
   Vancomycin - [**2114-5-19**] 12:00 AM
   Azithromycin - [**2114-5-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   riss
   cacco3
   calcitriol
   lipitor 80
   asa 81
   neurontin
   azithromycin 250 q 25
   tylenol prn fevers
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-19**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 39.4
C (103
   HR: 88 (67 - 96) bpm
   BP: 120/46(65) {94/39(47) - 133/57(76)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    230 mL
                                                                    255 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    230 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    360 mL
   Urine:
                                                                    120 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   203 K/uL
   115 mg/dL
   4.0 mg/dL
   29 mEq/L
   4.7 mEq/L
   75 mg/dL
   98 mEq/L
   139 mEq/L
   31.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
   WBC
   7.9
   Hct
   31.8
   Plt
   203
   Cr
   4.0
   Glucose
   115
   Other labs: PT / PTT / INR:14.4/29.3/1.2, Differential-Neuts:84.7 %,
   Lymph:11.5 %, Mono:3.1 %, Eos:0.5 %, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.5 mg/dL
   Fluid analysis / Other labs: vanc - pending
   Microbiology: sputum - gram positive rods/
   Assessment and Plan
   [**Age over 90 52**] yo M history of ICM (EF 30%), CKD (cr 3), recent Cdif infection,
   presents with respiratory distress/fevers/RLL infiltrate.  Presentation
   consistent with pna, as well as UA concerning for UTI.  His management
   is complicated by CHF limiting ability to provide IVF.  Patient
   requests no intubation and will therefore monitor respiratory status
   closely.
   1. RLL PNA:
   Health care associated pna in this recently hospitalized and nursing
   home resident.  GS with gram positive rods and cocci, gram + rods could
   represent legionella, will f/u culture data.  For now:
    - cont vanc for MRSA coverage, Zosyn for nosocomial gnr, azithro for
   legionella coverage
    - urine legionella ag
    - chest PT and flutter valve
    - supplemental O2
    - f/u repeat CXR
   2. UTI:
    - f/u urine cultures
   3. Recent CDif:
    - start PO vancomycin while on abx
   4. history of CHF:
    - judicious IVF, providing IVF now given HoTN, fevers,likely
   dehydration
   5. HTN with history flash pulmonary edema:
    - holding antihypertensives, will add back lopressor if HTN
   6. CAD:
    - cont atorvastatin, asa
   7. CKD:
    - gentle ivf
   6. FEN:
    - monitor and replete lytes
    - diabetic cardiac diet when mental status improves
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-5-18**] 09:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 30 minutes

2114-05-20 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2114-5-19**] 04:56 PM
 EKG - At [**2114-5-19**] 10:50 PM
 FEVER - 103.0
F - [**2114-5-19**] 08:00 AM
   -Given 500ml NS with minimal improvement in BP
   -Placed RIJ with CVP 5 -> given additional 500mg NS
   -Started Levophed with improvement in BP
   -Vanco level low -> given 1g vanco to check trough [**5-20**]
   -Had low UOP despite IVF and improved BP
   -Briefly went into aflutter at 130bpm for 10min before breaking on its
   own
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-19**] 12:00 AM
   Azithromycin - [**2114-5-19**] 12:00 AM
   Vancomycin - [**2114-5-19**] 02:00 PM
   Piperacillin - [**2114-5-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-5-19**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-20**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37
C (98.6
   HR: 68 (63 - 134) bpm
   BP: 103/51(64) {73/12(38) - 133/60(78)} mmHg
   RR: 21 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (-5 - 11)mmHg
   Total In:
                                                                  3,350 mL
                                                                    332 mL
   PO:
                                                                    280 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,070 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    150 mL
   Urine:
                                                                    645 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,705 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen: sleeping, opens eyes to voice, oriented x3
   HEENT: NC AT Pupils 1-2 mm equal and reactive
   Neck: supple, IJ in place
   CV: regular rate and rhythm, [**3-16**] soft systolic murmur
   Lungs: bronchial breath sounds at the left base to [**2-9**] way, no
   wheezing, poor respiratory effort
   Abd: soft, slight RLQ tenderness, no guarding, BS+
   Ext: 2+ pitting edema of LE's bilaterally
   Sking: no rash or lesions
   Labs / Radiology
   171 K/uL
   9.4 g/dL
   123 mg/dL
   4.2 mg/dL
   27 mEq/L
   4.8 mEq/L
   76 mg/dL
   100 mEq/L
   138 mEq/L
   27.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
   WBC
   7.9
   7.4
   5.4
   Hct
   31.8
   29.4
   27.7
   Plt
   [**Telephone/Fax (3) 8704**]
   Cr
   4.0
   3.9
   4.2
   TropT
   0.11
   Glucose
   115
   176
   123
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB /
   Troponin-T:94//0.11, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:5.5 mg/dL
   Sputum [**5-19**]: 3+ yeast, 2+ GPR, 1+ GPCs
   Urine cx [**5-18**]: >100K enterococcus
   Legionella: negative
   Blood cx [**5-18**]: NGTD
   CXR [**5-19**]:
   Tip of the new right internal jugular line projects over the low SVC.
   No
   pneumothorax or mediastinal widening. Moderate-to-large right pleural
   effusion has increased since yesterday. There is probably mild
   pulmonary
   edema, increased in the left lung, but whether there is exclusively
   edema and
   pleural effusion on the right or whether there is also consolidation is
   radiographically indeterminate
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O PULMONARY EDEMA
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Mr. [**Known lastname 7943**] is a [**Age over 90 52**] yo M with PMH CAD, CHF, Cdiff, CKD (3.2-3.7)
   admitted with Healthcare assoc RLL pneumonia.
   .
   #Health Care associated pneumonia/Sepsis - with large infiltrate in RLL
   on CXR, most likely cause of presenting symptoms of weakness, lethargy
   and cough.  Does have mild pulmonary edema after fluid resuscitation.
   Had high fevers as well as hypotension.  Pressor dependent currently
   -vanc, zosyn and azithromycin to cover broadly for HAP and atypicals
   - f/u vanco trough today as level low yesterday
   -sputum culture with GPRs, GPCs
   -urine legionella negative
   -conintue O2
   -f/u blood cultures/micro
   - s/p RIJ placement, follow CVP and can give gentle IVF for CVP 10-12
   - Cont Levophed and try to wean prn
   .
   #Urinary Tract Infection: UA on admission c/w UTI, per family he has
   h/o UTI's, which may also be explanation for weakness and lethargy.
   Last positive culture with MRSA.  This time has enterococcus
   -f/u urine culture
   -current antibiotics will cover likely causes for UTI
   .
   #Chronic Systolic Heart Failure: EF 30-40%, 1+ MR c/b pulmonary edema
   and lower extremity swelling.  Appears euvolemic to slightly
   hypovolemic on admission.
   -holding carvedilol, furosemide, hydralazine, amlodipine for now given
   hypotension
   -monitor BP (has h/o flash pulmonary edema w/hypertension per family
   goal BP 120's)
   - Add back BB first
   .
   #Acute on Chronic Stage IV Chronic Kidney Disease: creatinine slightly
   elevated above baseline of 3.5-3.7 at 4.2 likely related [**3-12**] c.diff and
   acute PNA/UTI.   Has had poor UOP.  Likely pre-renal though cannot rule
   out ATN given hypotension
   -hold diuretics
   -given gentle IVF yesterday, but may require more
   - Send urine electrolytes, sediment
   - consider renal U/S if worsens
   - Cont to trend and renal dose as appropriate
   .
   #Recurrant C.diff: stable
   -continue po vanco
   -contact precautions
   .
   #Type 2 DM: stable
   -hold oral agents for now
   -cover with HISS
   .
   #Peripheral Neuropathy: pt with chronic pain in hands and feet
   -hold neurontin given mental status
   -percocet prn
   .
   #CAD - h/o prior MI with ischemic cardiomyopathy, no acute issues, EKG
   at baseline.  Had ? aflutter vs SVT last night
   - check CEs
   -continue atorvastatin 80
   -continue ASA
   -holding carvedilol given relative hypotension/infection
   -has allergy to ACEI, not on [**Last Name (un) 239**]??
   .
   #COPD: stable
   -albuterol/atrovent nebs prn
   ICU Care
   Nutrition: encourage Pos -> ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-5-18**] 09:54 PM
   20 Gauge - [**2114-5-19**] 12:33 PM
   Multi Lumen - [**2114-5-19**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2114-05-20 08:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVL placed for persistent HoTN (with permission from family), continues
   to have pressor requirement
   Short run aflutter/afib overnight
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-19**] 12:00 AM
   Azithromycin - [**2114-5-19**] 12:00 AM
   Vancomycin - [**2114-5-19**] 02:00 PM
   Piperacillin - [**2114-5-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-5-19**] 10:01 PM
   Other medications:
   RISS
   Folate
   CaCO3
   Lipitor
   ASA
   Neurontin
   Zantac
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-20**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.7
   HR: 64 (63 - 134) bpm
   BP: 108/48(63) {73/12(38) - 133/60(78)} mmHg
   RR: 14 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (-5 - 11)mmHg
   Total In:
                                                                  3,350 mL
                                                                    363 mL
   PO:
                                                                    280 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,070 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    170 mL
   Urine:
                                                                    645 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,705 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   171 K/uL
   123 mg/dL
   4.2 mg/dL
   27 mEq/L
   4.8 mEq/L
   76 mg/dL
   100 mEq/L
   138 mEq/L
   27.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
   WBC
   7.9
   7.4
   5.4
   Hct
   31.8
   29.4
   27.7
   Plt
   [**Telephone/Fax (3) 8704**]
   Cr
   4.0
   3.9
   4.2
   TropT
   0.11
   Glucose
   115
   176
   123
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB /
   Troponin-T:94//0.11, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   [**Age over 90 52**] yo M CHF/CKD/CAD here w health-care associated pna and hypotension
   1. HAP pneumonia:
     - sputum culture still pending
    - urine legionella ag negative
    - cont vanc/zosyn/azithro until culture data returns
    - cont chest pt, accapella valve
    - f/u vanc trough
   -oxygen requirement slowly decreasing- continue to wean as tolerated
   -Remains on a small dose of levophed- wean to maintain MAP>65
   2. UTI: Urine w enterococcus, f/u sensitivities
   3. CHF:
    - cxr with slight pulmonary edema
    - holding carvedolol, lasix, norvasc given HoTN
    - holding ivf repletion for now
   4. Increased Creatinine: on baseline of CKD, recent HoTN, likely
   pre-renal v ATN
    - urine electrolytes
    - UA
    - urine sediment
    - renally dose all medications
   5. History of Cdif:
    - cont PO vancomycin
   6. Peripheral neuropathy:
    - holding Neurontin given mental status chagnes
   7. CAD:
    - statin, asa
    - holding BB
   8. FEN:
    - improving mental status, will advance towards cardiac diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-5-18**] 09:54 PM
   Multi Lumen - [**2114-5-19**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2114-05-21 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   mental status improved
   patient does not want arterial line placed
   continues on pressor but weaned down to levo 0.02
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-19**] 12:00 AM
   Azithromycin - [**2114-5-19**] 12:00 AM
   Vancomycin - [**2114-5-20**] 09:00 PM
   Piperacillin - [**2114-5-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-5-20**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 71 (62 - 77) bpm
   BP: 119/52(67) {98/39(54) - 119/56(70)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (-2 - 14)mmHg
   Total In:
                                                                  1,746 mL
                                                                    253 mL
   PO:
                                                                    780 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    966 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    533 mL
                                                                    140 mL
   Urine:
                                                                    533 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Gen: sleeping, opens eyes to voice, oriented x3
   HEENT: NC AT Pupils 1-2 mm equal and reactive
   Neck: supple, IJ in place
   CV: regular rate and rhythm, [**3-16**] soft systolic murmur
   Lungs: bronchial breath sounds at the left base to [**2-9**] way, no
   wheezing, poor respiratory effort
   Abd: soft, slight RLQ tenderness, no guarding, BS+
   Ext: 2+ pitting edema of LE's bilaterally
   Sking: no rash or lesions
   Labs / Radiology
   186 K/uL
   9.7 g/dL
   90 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.9 mEq/L
   78 mg/dL
   97 mEq/L
   135 mEq/L
   27.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
                             [**2114-5-21**]  05:01 AM
   WBC
   7.9
   7.4
   5.4
   5.2
   Hct
   31.8
   29.4
   27.7
   27.5
   Plt
   [**Telephone/Fax (3) 8710**]86
   Cr
   4.0
   3.9
   4.2
   4.4
   TropT
   0.11
   0.13
   Glucose
   115
   176
   123
   90
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB /
   Troponin-T:94/3/0.13, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:5.4 mg/dL
   Imaging: [**5-20**] CXR:
   Moderate bilateral pleural effusions have enlarged on the left, mild
   pulmonary
   edema is stable. Left lower lobe opacity is likely due to atelectasis.
   Right
   perihilar opacity has improved still is radiologically indeterminate it
   is
   pneumonia or due to edema and pleural effusion
   Microbiology: [**5-19**] Sputum Cx:
   GRAM STAIN (Final [**2114-5-19**]):
         >25 PMNs and <10 epithelial
   3+  BUDDING YEAST.
   2+   GRAM POSITIVE ROD(S).
   1+    GRAM POSITIVE COCCI IN PAIRS
   RESPIRATORY CULTURE: MODERATE GROWTH OROPHARYNGEAL FLORA. YEAST.
   HEAVY GROWTH.
   [**5-19**] Legionella Urine Ag: negative
   [**5-18**] Urine Cx: 100,000 enterococcus
   [**5-18**] Blood Cx: ngtd
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O PULMONARY EDEMA
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Mr. [**Known lastname 7943**] is a [**Age over 90 52**] yo M with PMH CAD, CHF, Cdiff, CKD (3.2-3.7)
   admitted with Healthcare assoc RLL pneumonia.
   .
   #Health Care associated pneumonia/Sepsis - with large infiltrate in RLL
   on CXR, most likely cause of presenting symptoms of weakness, lethargy
   and cough.  Does have mild pulmonary edema after fluid resuscitation.
   Had high fevers as well as hypotension.  Pressor dependent currently
   - vanc, zosyn and azithromycin to cover broadly for HAP and atypicals
   - f/u vanco trough today as level low yesterday
   -sputum culture with GPRs, GPCs
   -urine legionella negative
   -wean down oxygen
   -f/u blood cultures/micro
   - s/p RIJ placement, follow CVP and can give gentle IVF for CVP 10-12
   - Cont Levophed and try to wean prn
   .
   #Urinary Tract Infection: UA on admission c/w UTI, per family he has
   h/o UTI's, which may also be explanation for weakness and lethargy.
   Last positive culture with MRSA.  This time has enterococcus >100,000.
   -f/u urine culture, f/u sensitivity
   -current antibiotics will cover likely causes for UTI
   .
   #Chronic Systolic Heart Failure: EF 30-40%, 1+ MR c/b pulmonary edema
   and lower extremity swelling.  Appears euvolemic to slightly
   hypovolemic on admission.
   -holding carvedilol, furosemide, hydralazine, amlodipine for now given
   hypotension
   -monitor BP (has h/o flash pulmonary edema w/hypertension per family
   goal BP 120's)
   - Add back BB first
   .
   #Acute on Chronic Stage IV Chronic Kidney Disease: creatinine slightly
   elevated above baseline of 3.5-3.7 at 4.2 likely related [**3-12**] c.diff and
   acute PNA/UTI.   Has had poor UOP.  Likely pre-renal though cannot rule
   out ATN given hypotension
   - hold diuretics, small bolu to see if UOP picks up, may need diuresis
   if does not respond
   - given gentle IVF yesterday, but may require more
   - Cont to trend and renal dose as appropriate
   .
   #Recurrant C.diff: stable
   -continue po vanco
   -contact precautions
   .
   #Type 2 DM: stable
   -hold oral agents for now
   -cover with HISS
   .
   #Peripheral Neuropathy: pt with chronic pain in hands and feet
   -hold neurontin given mental status
   -percocet prn
   .
   #CAD - h/o prior MI with ischemic cardiomyopathy, no acute issues, EKG
   at baseline.  Had ? aflutter vs SVT last night
   - check CEs
   -continue atorvastatin 80
   -continue ASA
   -holding carvedilol given relative hypotension/infection
   -has allergy to ACEI, not on [**Last Name (un) 239**]??
   .
   # HTN- continue holding anti-htn agents, off pressors since 0800
   .
   #COPD: stable
   -albuterol/atrovent nebs standing
   ICU Care
   Nutrition: encourage Pos -> ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-5-18**] 09:54 PM
   20 Gauge - [**2114-5-19**] 12:33 PM
   Multi Lumen - [**2114-5-19**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Pneumonia in setting of chronic renal disease and chronic heart
   failure.  Making some forward progress
 able to wean levophed.
   Remains critically ill.
   Time spent on care: 35minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2114-5-21**] 17:56 ------

2114-05-22 07:55:00 Physician Resident Progress Note
Chief Complaint: PNA, heart failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2114-5-21**] 07:36 PM
 MULTI LUMEN - STOP [**2114-5-21**] 09:21 PM
   [**5-21**]
   Given 250 ml NS bolus with no improvement in urine output.
   Developed flash pulmonary edema and acute respiratory distress.  Given
   40mg IV lasix with no significant increase in urine output -> 80mg IV
   lasix still no significant improvement.
   Given 2mg IV morphine, nitropaste xone inch and bipap with eventual
   resolution of respiratory distress.
   Started on lasix gtt overnight still with minimal urine output
   Patient accidentally ripped out his RIJ as well as his PIV
   Added back low dose carvedilol 6.25 [**Hospital1 **] (25 [**Hospital1 **] at baseline)
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Azithromycin - [**2114-5-21**] 08:01 AM
   Vancomycin - [**2114-5-22**] 12:04 AM
   Piperacillin - [**2114-5-22**] 04:13 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-5-21**] 12:45 PM
   Furosemide (Lasix) - [**2114-5-21**] 06:38 PM
   Morphine Sulfate - [**2114-5-21**] 07:21 PM
   Heparin Sodium (Prophylaxis) - [**2114-5-21**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2114-5-22**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 79 (67 - 90) bpm
   BP: 124/70(82) {106/45(61) - 144/91(203)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (5 - 16)mmHg
   Total In:
                                                                  1,170 mL
                                                                    276 mL
   PO:
                                                                    350 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    820 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                    457 mL
                                                                    160 mL
   Urine:
                                                                    457 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: ///24/
   Ve: 5.7 L/min
   Physical Examination
   Gen: awake but tired appearing
   HEENT: MMM, OP clear
   Neck: supple, elevated JVP
   Heart: distant HS, no m/r/g
   Lungs: diffuse crackles
   Abd: soft, NT/ND
   Ext: 2+ pitting edema
   Skin: moist, warm, no rashes
   Labs / Radiology
   189 K/uL
   10.5 g/dL
   137 mg/dL
   4.9 mg/dL
   24 mEq/L
   5.6 mEq/L
   86 mg/dL
   96 mEq/L
   133 mEq/L
   29.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
                             [**2114-5-21**]  05:01 AM
                             [**2114-5-21**]  03:45 PM
                             [**2114-5-22**]  05:51 AM
   WBC
   7.9
   7.4
   5.4
   5.2
   4.6
   Hct
   31.8
   29.4
   27.7
   27.5
   29.6
   Plt
   [**Telephone/Fax (3) 8710**]86
   189
   Cr
   4.0
   3.9
   4.2
   4.4
   4.7
   4.9
   TropT
   0.11
   0.13
   Glucose
   115
   176
   123
   90
   163
   137
   Other labs: PT / PTT / INR:14.4/29.3/1.2, CK / CKMB /
   Troponin-T:94/3/0.13, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:6.4 mg/dL
   Imaging: CXR- overload
   Microbiology: RESPIRATORY CULTURE (Final [**2114-5-21**]):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         YEAST.    HEAVY GROWTH.
   urine enterococcus not speciated
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O PULMONARY EDEMA
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Mr. [**Known lastname 7943**] is a [**Age over 90 52**] yo M with PMH CAD, CHF, Cdiff, CKD (3.2-3.7)
   admitted with Healthcare assoc RLL pneumonia now with pulmonary edema
   and ARF.
   .
   .
   #Pulmonary Edema/Acute Systolic CHF: EF 30-40%, 1+ MR c/b pulmonary
   edema and lower extremity swelling.  Hypervolemic on exam, CXR with
   pulm edema worsening over the last 24hrs.  Unable to diurese given her
   ARF.
   - needs afterload reduction, will increase carvedilol and add back
   hydralazine today
   - obtain PICC line and start lasix gtt today
   - check urine Na+,  if low c/w heart failure in this setting
   - dry weight  150 lbs per past notes
   - monitor BP (has h/o flash pulmonary edema w/hypertension per family
   goal BP 120's
   - continue BIPAP PRN, transition to NC today if tolerated
   .
   #Acute on Chronic Stage IV Chronic Kidney Disease: creatinine slightly
   elevated above baseline of 3.5-3.7 at 4.2 likely related [**3-12**] c.diff and
   acute PNA/UTI.   Has had poor UOP.  Likely pre-renal though cannot rule
   out ATN given hypotension
   - likely pre-renal physiology [**3-12**] acute HF
   - check urine Na+
   - lasix gtt
   - tenuous, if Cr continues to rise will need renal input, consider HD,
   may not be c/w goals of care
   - will email primary nephrologist
   - renally dose meds, avoid nephrotoxins
   - continue phos binder
   .
   #Health Care associated pneumonia - with large infiltrate in RLL on
   CXR, most likely cause of presenting symptoms of weakness, lethargy and
   cough.  Does have mild pulmonary edema after fluid resuscitation.  Had
   high fevers as well as hypotension.  Pressor dependent currently
   - vanc, zosyn and azithromycin to cover broadly for HAP and atypicals,
   renally dosed
   - vanco level elevated, will dose based on level daily
   -sputum culture with GPRs, GPCs, cx not helpful, OP flora
   .
   #Urinary Tract Infection: UA on admission c/w UTI, per family he has
   h/o UTI's, which may also be explanation for weakness and lethargy.
   Last positive culture with MRSA.  This time has enterococcus >100,000.
   -f/u urine culture, f/u sensitivity
   -current antibiotics will cover likely causes for UTI
   .
   #Recurrant C.diff: stable
   -continue po vanco
   -contact precautions
   .
   #Type 2 DM: stable
   -hold oral agents for now
   -cover with HISS
   .
   #Peripheral Neuropathy: pt with chronic pain in hands and feet
   -hold neurontin given mental status
   -percocet prn
   .
   #CAD - h/o prior MI with ischemic cardiomyopathy, no acute issues, EKG
   at baseline.  Had ? aflutter vs SVT last night
   -continue atorvastatin 80
   -continue ASA
   - uptitrate carvedilol, start hydralazine
   - has allergy to ACEI, not on [**Last Name (un) 239**]??
   .
   # HTN- restart carvedilol, hydralazine, nitro prn
   .
   #COPD: stable
   -albuterol/atrovent nebs standing
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Pneumonia in setting of chronic renal disease and chronic heart
   failure.  Developed worsening fluid overload in setting of worsening
   CRF.  CXR and exam consistent with fluid overload.   Diuresis less
   effective because of A/CRF
 trial lasix drip and  afterload
   reduction.   Cont Bipap as required.   Creatinine up today
 gentle
   diuresis to avoid worsening CRF further though of course balanced by
   need to manage CHF.  Renally dose meds.  Follow for electrolyte
   abnormalities, acid/base, intractable fluid overload as indications for
   consideration of dialysis.
   Remainder of plan as outlined above.
   Remains critically ill.
   Time spent on care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2114-5-22**] 12:16 ------

2114-05-23 07:49:00 Physician Resident Progress Note
Chief Complaint: MOSD
   24 Hour Events:
 PICC LINE - START [**2114-5-22**] 07:00 PM
   [**5-22**]
   - Spoke with nephrologist and daughter: no further escalation of care.
   no dialysis.  if interventions don't work, would move towards comfort
   - CHF service: increase lasix gtt and add metolazone [**Hospital1 **]
   - Intermittently on BiPAA, feeling slightly dyspneic
   - Given morphine 1mg x3 plus ativan 1mg x1 for comfort
   - PICC placed successfully
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Azithromycin - [**2114-5-21**] 08:01 AM
   Vancomycin - [**2114-5-22**] 05:39 PM
   Piperacillin - [**2114-5-23**] 04:16 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-5-22**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2114-5-22**] 04:00 PM
   Morphine Sulfate - [**2114-5-23**] 02:00 AM
   Lorazepam (Ativan) - [**2114-5-23**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-23**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 74 (70 - 91) bpm
   BP: 136/66(82) {105/47(62) - 162/89(95)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,170 mL
                                                                    346 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    190 mL
   Urine:
                                                                    610 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 287 (287 - 712) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.8 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   202 K/uL
   9.8 g/dL
   197 mg/dL
   5.2 mg/dL
   24 mEq/L
   5.1 mEq/L
   89 mg/dL
   96 mEq/L
   135 mEq/L
   29.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
                             [**2114-5-21**]  05:01 AM
                             [**2114-5-21**]  03:45 PM
                             [**2114-5-22**]  05:51 AM
                             [**2114-5-23**]  02:52 AM
   WBC
   7.9
   7.4
   5.4
   5.2
   4.6
   4.7
   Hct
   31.8
   29.4
   27.7
   27.5
   29.6
   29.2
   Plt
   [**Telephone/Fax (3) 8710**]86
   189
   202
   Cr
   4.0
   3.9
   4.2
   4.4
   4.7
   4.9
   5.2
   TropT
   0.11
   0.13
   0.09
   Glucose
   115
   176
   123
   90
   163
   137
   197
   Other labs: PT / PTT / INR:15.1/34.0/1.3, CK / CKMB /
   Troponin-T:48/3/0.09, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Imaging: none today, overload yest afternoon after PICC
   Microbiology: enterococcus urine
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O PULMONARY EDEMA
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Mr. [**Known lastname 7943**] is a [**Age over 90 52**] yo M with PMH CAD, CHF, Cdiff, CKD (3.2-3.7)
   admitted with Healthcare assoc RLL pneumonia now with pulmonary edema
   and ARF and multi organ failure
   .
   #Pulmonary Edema/Acute Systolic CHF: EF 30-40%, 1+ MR c/b pulmonary
   edema and lower extremity swelling.  Hypervolemic on exam, CXR with
   pulm edema worsening over the last 24hrs.  Unable to diurese given
   ARF. Made 600cc urine.  Therapy not working as expected
   - discuss goals of care with family
   - tentatively will increase carvedilol and  hydralazine to optimal
   doses
   - lasix gtt/metolazone
   - appreciate HF service recs
   - dry weight  150 lbs per past notes
   - goal sbp<120
   - discuss goals of care
   .
   #Acute on Chronic Stage IV Chronic Kidney Disease: creatinine slightly
   elevated above baseline of 3.5-3.7 at 5.2 likely related [**3-12**] c.diff and
   acute PNA/UTI.   Has had poor UOP.  Likely pre-renal though cannot rule
   out ATN given hypotension
   - likely pre-renal physiology [**3-12**] acute HF
   - outpt nephrologist discussed HD with patient/family>>>do not want
   dialysis
   - lasix gtt and metolazone [**Hospital1 **] -> not working
   - renally dose meds, avoid nephrotoxins
   - continue phos binder
   - per outpt nephrologist, no HD
   .
   #Health Care associated pneumonia - with large infiltrate in RLL on
   CXR, most likely cause of presenting symptoms of weakness, lethargy and
   cough.  Does have mild pulmonary edema after fluid resuscitation.  Had
   high fevers as well as hypotension.  Pressor dependent currently
   - vanc, zosyn and completed azithromycin today to cover broadly for HAP
   and atypicals, renally dosed
   - vanco level elevated, will dose based on level daily
   -sputum culture with GPRs, GPCs, cx not helpful, OP flora
   .
   #Urinary Tract Infection: UA on admission c/w UTI, per family he has
   h/o UTI's, which may also be explanation for weakness and lethargy.
   Last positive culture with MRSA.  This time has enterococcus >100,000.
   -f/u urine culture, f/u sensitivity
   -current antibiotics will cover likely causes for UTI
   .
   #Recurrant C.diff: stable
   -continue po vanco
   -contact precautions
   .
   #Type 2 DM: stable
   -hold oral agents for now
   -cover with HISS
   .
   #Peripheral Neuropathy: pt with chronic pain in hands and feet
   -hold neurontin given mental status
   -percocet prn
   .
   #CAD - h/o prior MI with ischemic cardiomyopathy, no acute issues, EKG
   at baseline.  Had ? aflutter vs SVT last night
   -continue atorvastatin 80
   -continue ASA
   - uptitrate carvedilol,  hydralazine
   - has allergy to ACEI, not on [**Last Name (un) 239**]??
   .
   # HTN- restart carvedilol, hydralazine, nitro prn
   .
   #COPD: stable
   -albuterol/atrovent nebs standing
   ** Overall plan of care to be discussed with family today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2114-5-22**] 08:06 AM
   PICC Line - [**2114-5-22**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2114-05-23 10:52:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2114-5-22**] 07:00 PM
   - CHF service evaluated, recs re: diuresis
   - Per nephrologist discussion with daughter: no further escalation of
   care including dialysis.  If interventions don't work, likely will move
   toward comfort
   - Intermittently on BiPAP
   Allergies:
   Prednisone
   Rash;
   Isordil (Oral) (Isosorbide Dinitrate)
   Headache;
   Ace Inhibitors
   Renal Toxicity;
   Last dose of Antibiotics:
   Azithromycin - [**2114-5-21**] 08:01 AM
   Vancomycin - [**2114-5-22**] 05:39 PM
   Piperacillin - [**2114-5-23**] 04:16 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-5-22**] 01:00 PM
   Morphine Sulfate - [**2114-5-23**] 02:00 AM
   Lorazepam (Ativan) - [**2114-5-23**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-5-23**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-23**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.3
C (95.6
   HR: 82 (70 - 91) bpm
   BP: 145/59(81) {105/47(62) - 162/89(95)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,170 mL
                                                                    523 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                    820 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    525 mL
   Urine:
                                                                    610 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 641 (287 - 712) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 7 L/min
   Physical Examination
   On BiPAP when entered room.  Mildly dyspneic.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Extremities: Right: 2+, Left: 2+
   Neurologic: Confused, not answering questions
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  warm
   Labs / Radiology
   9.8 g/dL
   202 K/uL
   197 mg/dL
   5.2 mg/dL
   24 mEq/L
   5.1 mEq/L
   89 mg/dL
   96 mEq/L
   135 mEq/L
   29.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2114-5-19**]  05:30 AM
                             [**2114-5-19**]  02:26 PM
                             [**2114-5-20**]  05:27 AM
                             [**2114-5-21**]  05:01 AM
                             [**2114-5-21**]  03:45 PM
                             [**2114-5-22**]  05:51 AM
                             [**2114-5-23**]  02:52 AM
   WBC
   7.9
   7.4
   5.4
   5.2
   4.6
   4.7
   Hct
   31.8
   29.4
   27.7
   27.5
   29.6
   29.2
   Plt
   [**Telephone/Fax (3) 8710**]86
   189
   202
   Cr
   4.0
   3.9
   4.2
   4.4
   4.7
   4.9
   5.2
   TropT
   0.11
   0.13
   0.09
   Glucose
   115
   176
   123
   90
   163
   137
   197
   Other labs: PT / PTT / INR:15.1/34.0/1.3, CK / CKMB /
   Troponin-T:48/3/0.09, Differential-Neuts:84.7 %, Lymph:11.5 %, Mono:3.1
   %, Eos:0.5 %, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   [**Age over 90 52**]M w/ CAD, CHF, Cdiff, CRF admitted with RLL pneumonia now with
   worsening acute on chronic renal failure with progressive pulmonary
   edema.
   CHF
   -Developed worsening fluid overload in setting of worsening CRF.
   -CXR and exam consistent with fluid overload.
   -renal service following
   - titrating lasix drip up, diuril added
   - afterload reduction
   - Has been on BiPAP
 would change to CPAP since purely failure and
   should be more comfortable and better tolerated.
   CKD
   -creatinine cont to rise
   - trial lasix drip and  afterload reduction
   -renal following
   - renal dose meds
   - follow electrolytes, treat as necessary/able
   - not candidate for dialysis
   Remainder of plan as outlined in resident note.
   Remains critically ill.
   Time spent on care: 40 minutes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-5-22**] 08:06 AM
   PICC Line - [**2114-5-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: